* NEGATIVE CONTROL, body-tie corruption -- reference.spice with the four
* boosted-body PFETs' body terminals moved back to VDD, and NOTHING else
* changed (same devices, same W/L, same source/gate/drain connectivity).
*
* This is the single most important control in this flow. The mistake #122
* exists to make impossible is a layout that silently draws one VDD-tied
* n-well over the whole PFET set instead of three isolated islands: it would
* still pass DRC, still extract nine PFETs, still have every source/gate/drain
* net correct -- and would be electrically wrong in exactly the way
* design/sampling_frontend.sch's DR-004 forbids (BOOST_x rises above VDD
* during sampling, so a VDD-tied body on Sa/Se forward-biases their drain/body
* junction and injects substrate current).
*
* This file IS that wrong layout's netlist. `klt lvs` must report **mismatch**
* against it. If it reported "match", the LVS verdict against reference.spice
* would prove nothing about the body tie -- the comparison would simply be
* blind to the body column, and the flow's positive verdict would be an
* artefact of the checker rather than evidence about the layout.
*
* Corruption is body-terminal-only and is confined to these four lines:
*
*   M_SA_P  ... BOOST_P -> VDD
*   M_SE_P  ... BOOST_P -> VDD
*   M_SE_N  ... BOOST_N -> VDD
*   M_SA_N  ... BOOST_N -> VDD
*
* Same falsifiability discipline layout/trivial-cell/ established for this
* repo (issue #2) and layout/comparator/ extended: a "match" verdict means
* nothing until "mismatch" has been shown reachable on the same toolchain in
* the same run.
.SUBCKT sampling_frontend_pwells VDD SAMPLE SAMPLEB VINP VINN VCM BOOST_P BOOST_N G_P G_N BSBOT_P BSBOT_N BPREF_P BPREF_N
M_SA_P    BOOST_P G_P     VDD     VDD     pfet L=0.5U  W=1U
M_SE_P    G_P     SAMPLEB BOOST_P VDD     pfet L=0.15U W=1U
M_SCP_P   BSBOT_P SAMPLEB VINP    VDD     pfet L=0.15U W=1U
M_CMSWP_P BPREF_P SAMPLEB VCM     VDD     pfet L=0.15U W=16U
M_INVP    SAMPLEB SAMPLE  VDD     VDD     pfet L=0.15U W=2U
M_CMSWP_N BPREF_N SAMPLEB VCM     VDD     pfet L=0.15U W=16U
M_SCP_N   BSBOT_N SAMPLEB VINN    VDD     pfet L=0.15U W=1U
M_SE_N    G_N     SAMPLEB BOOST_N VDD     pfet L=0.15U W=1U
M_SA_N    BOOST_N G_N     VDD     VDD     pfet L=0.5U  W=1U
.ENDS sampling_frontend_pwells
