* NEGATIVE CONTROL, device-parameter corruption -- reference.spice with one
* device width changed (M_SA_P W=1U -> W=4U) and connectivity, including every
* body terminal, left completely untouched.
*
* Independent of reference.broken-body-tie.spice on purpose: a comparison that
* only checked connectivity would pass this control while failing the body-tie
* one, and one that only compared parameters would do the reverse. Both are
* needed before "match" against reference.spice carries information.
*
* `klt lvs` must report **mismatch** against this file.
*
* Same discipline as layout/trivial-cell/reference.broken-device.spice
* (issue #2) and layout/comparator/reference.broken-device.spice.
.SUBCKT sampling_frontend_pwells VDD SAMPLE SAMPLEB VINP VINN VCM BOOST_P BOOST_N G_P G_N BSBOT_P BSBOT_N BPREF_P BPREF_N
M_SA_P    BOOST_P G_P     VDD     BOOST_P pfet L=0.5U  W=4U
M_SE_P    G_P     SAMPLEB BOOST_P BOOST_P pfet L=0.15U W=1U
M_SCP_P   BSBOT_P SAMPLEB VINP    VDD     pfet L=0.15U W=1U
M_CMSWP_P BPREF_P SAMPLEB VCM     VDD     pfet L=0.15U W=16U
M_INVP    SAMPLEB SAMPLE  VDD     VDD     pfet L=0.15U W=2U
M_CMSWP_N BPREF_N SAMPLEB VCM     VDD     pfet L=0.15U W=16U
M_SCP_N   BSBOT_N SAMPLEB VINN    VDD     pfet L=0.15U W=1U
M_SE_N    G_N     SAMPLEB BOOST_N BOOST_N pfet L=0.15U W=1U
M_SA_N    BOOST_N G_N     VDD     BOOST_N pfet L=0.5U  W=1U
.ENDS sampling_frontend_pwells
